US07723333B2
2-tert-Butyl-4-{[3-(3-fluorophenoxy)propyl]amino}-5-phenylisothiazol-3(2H)-one 1,1-dioxide
The title compound was prepared as described for Example 12 from 3-fluorophenol and 3-[(2-tert-butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]propyl 4-methylbenzenesulfonate with a reaction time of 15 mins. The reaction mixture was evaporated and the residue was purified by silica gel column chromatography (Horizons Biotage) using 15% EtOAc in hexane as eluent to give the title compound (0.069 g, 65%). 1H NMR (500 MHz CDCl3): δ 7.54-7.50 (m, 2H), 7.46-7.42 (m, 3H), 7.26-7.20 (m, 1H), 6.70-6.60 (m, 2H), 6.59-6.55 (m, 1H), 5.69 (t, 1H), 3.86 (t, 1H), 3.12-3.07 (q, 2H), 1.90-1.82 (m, 2H), 1.75 (s, 9H); 13C NMR (125 MHz CDCl3): δ 164.8, 162.8, 159.9, 159.8, 135.3, 131.8, 130.5, 130.4, 129.8, 128.8, 125.3, 110.4, 108.2, 108.1, 107.3, 102.5, 102.3, 66.3, 61.7, 42.3, 28.9, 27.8; Mass Spectrum: M+H+ 433.

reactant | 3-fluorophenol | FC=1C=C(C=CC1)O | C6H5FO
reactant | 3-[(2-tert-butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]propyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCCCNC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)C(C)(C)C)=O | C23H28N2O6S2
product | 2-tert-Butyl-4-{[3-(3-fluorophenoxy)propyl]amino}-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.069 g, 65% | C(C)(C)(C)N1S(C(=C(C1=O)NCCCOC1=CC(=CC=C1)F)C1=CC=CC=C1)(=O)=O | C22H25FN2O4S
